US08614213B2
Step 2: Ethyl 4-(2-chloro-5-(trifluoromethyl)benzamido)-2-methylcyclohexane carboxylate
Ethyl 4-amino-2-methylcyclohexanecarboxylate (780 mg, 4.21 mmol) in THF (10 ml) is treated with TEA (1.174 ml, 8.42 mmol) and the reaction mixture is cooled to 0° C. 2-Chloro-5-(trifluoromethyl)benzoyl chloride (921 mg, 3.79 mmol) is added dropwise and the reaction mixture is stirred and allowed to warm to RT. After 3 hours, the reaction is quenched with water and partitioned between EtOAc and sat. sodium bicarbonate. The organic portion is separated and dried over MgSO4 and concentrated in vacuo to afford the title compound which is used without further purification. [MH]+392.26.

reactant | Ethyl 4-amino-2-methylcyclohexanecarboxylate | 4.21 mmol, 780 mg | NC1CC(C(CC1)C(=O)OCC)C | C10H19NO2
reactant | 2-Chloro-5-(trifluoromethyl)benzoyl chloride | 3.79 mmol, 921 mg | ClC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3Cl2F3O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Ethyl 4-(2-chloro-5-(trifluoromethyl)benzamido)-2-methylcyclohexane carboxylate | ClC1=C(C(=O)NC2CC(C(CC2)C(=O)OCC)C)C=C(C=C1)C(F)(F)F | C18H21ClF3NO3
